US06121201
Synthesis of 5-chloro-4-(4-chloro-2-fluoro-5-(4,6-dimethoxy-2-triazinyloxy)phenyl)-1-difluoromethyl-2-methylimidazole (Compound 2-4) (Process 3).
5-Chloro-4-(4-chloro-2-fluoro-5-hydroxyphenyl)-1-difluoromethyl-2-methylimidazole (prepared according to the procedure as described in EP 590,834) (0.31 g, 1 mMol) was dissolved in N,N-dimethylformamide (5 ml). Potassium carbonate (0.17 g, 1.2 mMol) and 2-chloro-4,6-dimethoxytriazine (0.21 g, 1.2 mMol) were added and the suspension stirred at 110° C. for 2 hours under an atmosphere of nitrogen. The mixture was processed. and the residue chromatographed on silica gel eluting with methylene chloride:methanol, 98:2, to give the title compound (0.25 g, 55%). 1H NMR (CDCl3, TMS): 2.61 (3H, br s), 4.00 (6H, s), 7.17 (1H, t, J=58.1 Hz), 7.29 (1H, d, J=9.3 Hz), 7.53 (1H, d, J=6.6 Hz).

reactant | 5-Chloro-4-(4-chloro-2-fluoro-5-hydroxyphenyl)-1-difluoromethyl-2-methylimidazole | ClC1=C(N=C(N1C(F)F)C)C1=C(C=C(C(=C1)O)Cl)F | C11H7Cl2F3N2O
reactant | Potassium carbonate | 1.2 mMol, 0.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-4,6-dimethoxytriazine | 1.2 mMol, 0.21 g | ClN1NC(=CC(=N1)OC)OC | C5H8ClN3O2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5-chloro-4-(4-chloro-2-fluoro-5-(4,6-dimethoxy-2-triazinyloxy)phenyl)-1-difluoromethyl-2-methylimidazole | 0.25 g, 55% | ClC1=C(N=C(N1C(F)F)C)C1=C(C=C(C(=C1)ON1NC(=CC(=N1)OC)OC)Cl)F | C16H14Cl2F3N5O3
